US06503907B2
In analogy to example 5.4, 5-(5-Hydroxy-pent-1-ynyl)-3-methyl-indole-1-carboxylic acid tert-butyl ester and methanesulfonyl chloride were converted to yield 5-(5-Methanesulfonyloxy-pent-1-ynyl)-3-methyl-indole-1-carboxylic acid tert-butyl ester as yellow viscous oil, MS: 392 (MH+).

reactant | 5-(5-Hydroxy-pent-1-ynyl)-3-methyl-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)C#CCCCO)C | C19H23NO3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 5-(5-Methanesulfonyloxy-pent-1-ynyl)-3-methyl-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)C#CCCCOS(=O)(=O)C)C | C20H25NO5S
